US05935976
13b) 4-Chlorocarbonyl-1-ethoxycarbonylpiperidine
A solution of 578.2 g of 4-carboxy-1-ethoxycarbonylpiperidine in 1200 ml of toluene is treated firstly with 1.0 g of N,N-dimethylformnamide and then, at from 68 to 70° C. and within the space of 2 hours, with 369.0 g of thionyl chloride. The mixture is subsequently stirred at 70° C. for a further 30 min, after which the toluene is distilled off in vacuo and the residue is then degassed at RT for approximately 30 min under HV. This results in the title compound in the form of a weakly yellow oil [IR (Film): 2960, 2870, 1790, 1695, 1470, 1435, 1300, 1230, 1130, 960, 765 cm-1 ]. The product distils without decomposition at a m.p. of 96-98° C. (0.08-0.09 Torr).

reactant | 4-carboxy-1-ethoxycarbonylpiperidine | 578.2 g | C(=O)(O)C1CCN(CC1)C(=O)OCC | C9H15NO4
reactant | thionyl chloride | 369.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chlorocarbonyl-1-ethoxycarbonylpiperidine | ClC(=O)C1CCN(CC1)C(=O)OCC | C9H14ClNO3
